US04859229
A solution of 6.00 g of 4-chloro-2-fluoro-5-isopropoxyphenyl isocyanate in 100 ml of absolute diethyl ether is added dropwise while stirring at room temperature during 1 hour to a solution of 4.00 g of ethyl 3-amino-2-fluorocrotonate and the reaction mixture is stirred for 16 hours. The mixture is then evaporated to dryness under reduced pressure, the residue is dissolved in 50 ml of absolute dimethylformamide and the solution is added while stirring at room temperature to a solution of 1.31 g of a 55% sodium hydride dispersion in 50 ml of dimethylformamide and 100 ml of isopropyl alcohol. The mixture is subsequently stirred at room temperature for 4 hours, adjusted to pH ~4 with concentrated acetic acid and concentrated under reduced pressure. The residue is poured into 1 l of water and extracted twice with 200 ml of ethyl acetate each time, and the organic phases are washed with water, dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. The residue is purified by chromatography on a silica gel column using ethyl acetate/n-hexane as the eluent and subsequently recrystallized from ethyl acetate/diethyl ether. There is obtained 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5 -fluoro-6-methyl-2,4(1H,3H)-pyrimidinedione, m.p. 162°-164° C.

reactant | 4-chloro-2-fluoro-5-isopropoxyphenyl isocyanate | 6.00 g | ClC1=CC(=C(C=C1OC(C)C)N=C=O)F | C10H9ClFNO2
reactant | ethyl 3-amino-2-fluorocrotonate | 4.00 g | N\C(=C(/C(=O)OCC)\F)\C | C6H10FNO2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5 -fluoro-6-methyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OC(C)C)N1C(NC(=C(C1=O)F)C)=O)F | C14H13ClF2N2O3
